US06355803B1
Synthesis of 4-benzyloxybenzyltriphenyl phosphonium chloride
4-Benzyloxybenzyl chloride (1 g, 0.0043 mol) and triphenyl phosphine (1.127 g, 1 equivalent) in anhydrous toluene (20 mL) were refluxed under nitrogen for ˜8-10 hours. A white precipitate appeared in the reaction mixture. The reaction mixture was then cooled to room temperature and ether (100 mL) was added. The precipitated phosphonium salt was collected by filtration, rinsed with ether and air dried. Yield=0.55 g (25%). MALDI-TOF MS 459.51 obs. (459.54 calc.).

reactant | 4-Benzyloxybenzyl chloride | 0.0043 mol, 1 g | C(C1=CC=CC=C1)OC1=CC=C(CCl)C=C1 | C14H13ClO
reactant | triphenyl phosphine | 1.127 g, 1 equivalent | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | ether | 100 mL | CCOCC | C4H10O
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 4-benzyloxybenzyltriphenyl phosphonium chloride | [Cl-].C(C1=CC=CC=C1)OC1=CC=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1 | InChI=1S/C32H28OP.ClH/c1-5-13-27(14-6-1)25-33-29-23-21-28(22-24-29)26-34(30-15-7-2-8-16-30,31-17-9-3-10-18-31)32-19-11-4-12-20-32;/h1-24H,25-26H2;1H/q+1;/p-1
